US07759337B2
Step 1: 3-(1-chlorophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide
A mixture of 3-(1-hydroxyphthalazin-6-yl)-4-methylbenzoic acid (1.08 g, 3.85 mmol) and phosphorus oxychloride (25.0 mL, 268 mmol) was heated to 105° C. for 3 h. After cooling to RT, the solvents were removed in vacuo. The residue was re-dissolved in CH2Cl2 and treated carefully with cyclopropylamine (1.36 mL, 19.3 mmol) at RT. The mixture was diluted with sat aq. NaHCO3 and H2O and extracted with CH2Cl2 (4×). The combined organics were dried over Na2SO4, filtered and concentrated. The residue was purified using column chromatography (MeOH/CH2Cl2=0→3%). Found MS (ESI, pos. ion) m/z: 338 (M+1).

reactant | 3-(1-hydroxyphthalazin-6-yl)-4-methylbenzoic acid | 3.85 mmol, 1.08 g | OC1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)O)C=CC1C | C16H12N2O3
reactant | phosphorus oxychloride | 268 mmol, 25.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | cyclopropylamine | 19.3 mmol, 1.36 mL | C1(CC1)N | C3H7N
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | H2O | O | H2O
product | 3-(1-chlorophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide | ClC1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)NC2CC2)C=CC1C | C19H16ClN3O
